US04435407
Cyanoacetic acid (4.5 g) and 5.0 g of 2-aminopyridine, each in acetonitrile, were combined, and the suspension (150 ml) treated rapidly with a solution of 12.0 g of dicyclohexylcarbodiimide (DCCI) in 60 ml of acetonitrile. After stirring 4 hrs. and filtering, the filtrate was evaporated and the residue triturated with ether to give 2-(cyanoacetylamino)pyridine, m.p. 159°-161°. Recrystallization from ethyl acetate raised melting point to 162°-3°.

reactant | Cyanoacetic acid | 4.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | 2-aminopyridine | 5.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | dicyclohexylcarbodiimide | 12.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 2-(cyanoacetylamino)pyridine | C(#N)CC(=O)NC1=NC=CC=C1 | C8H7N3O
